US07375087B2
4-[(4-{3-[2-Amino-1,1-di-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 1 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole and 2-amino-1-benzyloxycarbonylamino-2-(methyl)propane instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole and glycinamide hydrochloride, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(=O)O)C(C)C | C31H38N2O12
reactant | 2-amino-1-benzyloxycarbonylamino-2-(methyl)propane | NC(CNC(=O)OCC1=CC=CC=C1)(C)C | C12H18N2O2
reactant | glycinamide hydrochloride | Cl.NCC(=O)N
product | 4-[(4-{3-[2-Amino-1,1-di-(methyl)-ethylcarbamoyl]propyl}phenyl)methyl]-3-(β-D-galactopyranosyloxy)-5-isopropyl-1H-pyrazole | NCC(C)(C)NC(=O)CCCC1=CC=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C27H42N4O7
